US09023846B2
A solution of 4,6-dichloro-pyridin-2-ylamine (1.00 g, 6.14 mmol) in DME (75 mL) and water (50 mL) was treated with Cs2CO3 (6.00 g, 18.4 mmol) and 2-(trifluoromethyl)phenylboronic acid (1.52 g, 7.98 mmol). The resulting mixture was degassed by heating under a stream of Ar. Cl2Pd(dppf).DCM (270 mg, 0.368 mmol) was added, and the mixture was heated to 80° C. for 24 h. The cooled mixture was diluted with EtOAc (70 mL) and washed twice with water (50 mL). The combined aqueous layers were extracted twice with EtOAc (50 mL). The combined organic extracts were dried over MgSO4 and concentrated in vacuo. The residue was purified on a 115-g SEPRA Si 35 SPE silica column (Flow rate=30 mL/min; Eluent=EtOAc-hexanes, 1:19 for 15 min, 1:19 to 1:3 over 40 min, then 1:3 until product eluted) to yield 4-chloro-6-(2-trifluoromethyl-phenyl)-pyridin-2-ylamine as an off-white solid. 1H-NMR (400 MHz, CDCl3) δ: 7.74 (d, J=7.6 Hz, 1H), 7.59 (t, J=7.5 Hz, 1H), 7.50 (t, J=7.7 Hz, 1H), 7.45 (d, J=7.6 Hz, 1H), 6.77 (d, J=1.5 Hz, 1H), 6.53 (d, J=1.5 Hz, 1H), 4.59 (br. s., 2H). Mass Spectrum (LCMS, ESI pos.): Calculated for C12H8N2ClF3: 273.0 (M+H); Measured: 273.0.

reactant | 4,6-dichloro-pyridin-2-ylamine | 6.14 mmol, 1.00 g | ClC1=CC(=NC(=C1)Cl)N | C5H4Cl2N2
reactant | Cs2CO3 | 18.4 mmol, 6.00 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-(trifluoromethyl)phenylboronic acid | 7.98 mmol, 1.52 g | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | DCM | 0.368 mmol, 270 mg | C(Cl)Cl | CH2Cl2
solvent | DME | 75 mL | COCCOC | C4H10O2
solvent | water | 50 mL | O | H2O
solvent | EtOAc | 70 mL | CCOC(=O)C | C4H8O2
product | 4-chloro-6-(2-trifluoromethyl-phenyl)-pyridin-2-ylamine | ClC1=CC(=NC(=C1)C1=C(C=CC=C1)C(F)(F)F)N | C12H8ClF3N2
